US08629137B2
Step 1: 6-(2-benzyloxy-6-chloro-pyridine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one
3.85 mL (3.85 mmol) sodium benzylate solution (1M in benzylalcohol) were added to 1.24 g (3.85 mmol) 6-(2,6-dichloro-pyridine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one in 50 mL THF and stirred overnight at RT. The reaction mixture was combined with saturated sodium hydrogen carbonate solution and extracted with EtOAc. The combined organic phases were dried and evaporated down i. vac.

reactant | sodium | 3.85 mmol, 1M, 3.85 mL | [Na] | Na
reactant | 6-(2,6-dichloro-pyridine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one | 3.85 mmol, 1.24 g | ClC1=NC(=CC(=C1)C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C)Cl | C14H8Cl2N2O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 6-(2-benzyloxy-6-chloro-pyridine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one | C(C1=CC=CC=C1)OC1=NC(=CC(=C1)C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C)Cl | C21H15ClN2O4
